US20010049371A1
3-(3-Ethoxy-4-methoxyphenyl)-N-hydroxy-3-(3-hydroxyphthalimido)propionamide was prepared by the procedure of Example 1 from 3-(3-ethoxy-4-methoxyphenyl)-3-(3-hydroxyphthalimido)propanoic acid (0.70 g, 1.8 mmol), carbonyldiimidazole (690 mg, 4.25 mmol) and hydroxylamine hydrochloride (380 mg, 5.47 mmol) in tetrahydrofuran (10 mL) to afford 3-(3-ethoxy-4-methoxyphenyl)-N-hydroxy-3-(3-hydroxyphthalimido)propionamide as a yellow solid (580 mg, 80% yield): mp, 209.0-210.0° C.; 1H NMR (DMSO-d6) δ1.31 (t, J=6.9 Hz, 3H, CH3), 3.08 (d, J=7.9 Hz, 2H, CH2), 3.71 (s, 3H, CH3), 3.97 (q, J=6.9 Hz, 2H, CH2), 5.62 (t, J=7.9 Hz, 1H, NCH), 6.88 (br s, 2H, Ar), 6.99 (br s, 1H, Ar), 7.18 (d, J=8.3 Hz, 1H, Ar), 7.22 (d, J=7.1 Hz, 1H, Ar), 7.58 (dd, J=7.4, 8.2 Hz, 1H, Ar), 8.88 (br s, 1H, OH), 10.5g (br s, 1H, NH); 13C NMR (DMSO-d6) δ24.73, 44.31, 59.77, 65.49, 73.77, 121.76, 122.40, 123.84, 124.29, 129.66, 133.41, 141.53, 143.24, 146.04, 157.66, 158.49, 165.49, 176.14, 176.39, 177.51; Anal Calcd for C20H20N2O7: C, 60.00; H, 5.03; N, 7.00. Found: C, 59.99; H, 5.08; N, 7.03.

reactant | 3-(3-ethoxy-4-methoxyphenyl)-3-(3-hydroxyphthalimido)propanoic acid | 1.8 mmol, 0.70 g | C(C)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C(C1=O)=C(C=CC2)O)=O | C20H19NO7
reactant | carbonyldiimidazole | 4.25 mmol, 690 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydroxylamine hydrochloride | 5.47 mmol, 380 mg | Cl.NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(3-ethoxy-4-methoxyphenyl)-N-hydroxy-3-(3-hydroxyphthalimido)propionamide | 580 mg, 80% yield | C(C)OC=1C=C(C=CC1OC)C(CC(=O)NO)N1C(C=2C(C1=O)=C(C=CC2)O)=O | C20H20N2O7
